* E:\ESIM\Charge_pump_NMOS\Charge_pump_NMOS.cir

.include Switch_MOS.sub

.lib "skywater-pdk-libs-sky130_fd_pr-main/models/sky130.lib.spice" tt


xm1  Net-_MOS_IC1-Pad~_ sky130_fd_pr__nfet_1v08 w=0.42 l =0.50		
10u1  Net-_10u1-Pad1_ Net-_10u1-Pad2_ capacitor		
1m1  GND Net-_1m1-Pad2_ capacitor
		
v3  net-_xm2-pad2_ gnd pulse(0 3.3 0.5m 0.1n 0.1n 0.1m 1m)
v4  net-_xm4-pad2_ gnd pulse(0 3.3 0.5m 0.1n 0.1n 0.1m 1m)
v2  net-_xm1-pad2_ gnd pulse(3.3 0 0.5m 0.1n 0.1n 0.1m 1m)
v5  net-_xm3-pad2_ gnd pulse(3.3 0 0.5m 0.1n 0.1n 0.1m 1m)
v1  net-_xm1-pad1_ gnd 5

.tran 0.5e-03 20e-03 0e-03

* Control Statements 
.control
run

plot net-_xm1-pad1_ output_port 

print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc			
.end
