* e:\esim\hackathon_charge_pump\hackathon_charge_pump.cir

.lib "E:\ESIM\Hackathon_Charge_Pump\sky130_fd_pr\models\sky130.lib.spice" tt

xm1  net-_xm1-pad1_ net-_xm1-pad2_ net-_c1-pad2_ gnd sky130_fd_pr__nfet_01v8 w=.42 l=0.5
xm2  net-_c1-pad2_ net-_xm2-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 w=.42 l=0.5
xm3  output_port net-_xm3-pad2_ net-_c1-pad1_ gnd sky130_fd_pr__nfet_01v8 w=.42 l=0.5
c1  net-_c1-pad1_ net-_c1-pad2_ 10u
c2  output_port gnd 1m
v3  net-_xm2-pad2_ gnd pulse(0 3.3 0.5m 0.1n 0.1n 0.1m 1m)
v4  net-_xm4-pad2_ gnd pulse(0 3.3 0.5m 0.1n 0.1n 0.1m 1m)
v2  net-_xm1-pad2_ gnd pulse(3.3 0 0.5m 0.1n 0.1n 0.1m 1m)
v5  net-_xm3-pad2_ gnd pulse(3.3 0 0.5m 0.1n 0.1n 0.1m 1m)
v1  net-_xm1-pad1_ gnd 5
xm4  net-_c1-pad1_ net-_xm4-pad2_ net-_xm1-pad1_ gnd sky130_fd_pr__nfet_01v8 w=.42 l=0.5
.tran 0.5e-03 20e-03 0e-03

* Control Statements 
.control
run

plot net-_xm1-pad1_ output_port 

print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
